US06197798B1
C. 2-(4-Trifluoromethyl-phenyl)-nicotinoyl chloride
To a solution of the title B compound, 2-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester (0.626 g, 2.228 mmol) in 1:1 THF:H2O (10 mL) is added LiOH.H2O (0.187 g, 4.456 mmol). After 3.5 h, the reaction mixture is concentrated to dryness under reduced pressure. To a slurry of the crude lithium salt in methylene chloride (10 mL) is added oxalyl chloride (0.78 mL, 8.91 mmol) followed by a few drops DMF. After stirring 16 h, the reaction mixture is concentrated to dryness under reduced pressure and used as is without purification.

reactant | 2-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | 2.228 mmol, 0.626 g | COC(C1=C(N=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C14H10F3NO2
reactant | LiOH.H2O | 4.456 mmol, 0.187 g | O[Li].O
reactant | lithium | [Li] | Li
reactant | oxalyl chloride | 8.91 mmol, 0.78 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
solvent | H2O | 10 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-Trifluoromethyl-phenyl)-nicotinoyl chloride | FC(C1=CC=C(C=C1)C1=C(C(=O)Cl)C=CC=N1)(F)F | C13H7ClF3NO
